Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Bactrim / Quinapril / Verapamil / Codeine / Demerol / Morphine / 
Accupril / Levaquin / Sertraline / Citalopram
 
Attending: ___.
 
Chief Complaint:
left arm weakness and dysarthria
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o RHF with HTN who presents with new left arms weakness and
dysarthria.  She was at her baseline yesterday and went to bed 
at
~8pm.  At 3am she got up to use the bathroom and doesn't recall
any abnormalities.  However, whe she woke up this morning at 
~8am
she noticed that her left arm was weak and slurred speech.  She
was worried that this was due to a stroke and contacted her
daughter.  Her daughter also noted slurred speech while on the
phone but states her cognition was at baseline.  EMS was
contacted and she was brought to ___ ED.  Here a head CT was
obtained which did not show any acute changes or bleeding.

ROS:
Other than previously mentioned, patient is complaining of
feeling a bit confused and nausea.  She though denies any
headaches, change in vision although difficult to determine,
change in hearing or tingling.
 

 
Past Medical History:
-HTN
-PR
-Asthma
-GERD
-H/o breast cancer, basal cell carcinoma & small cell carcinoma
-legally blind, s/p retinal detachment and macular degeneration
-Anemia
-Psoriasis
-Bicuspid Aortic valve
-TMJ
-Neuralgia 

 
Social History:
___
Family History:
No h/o seizures, strokes, migraines or other neurologic 
disorders

 
Physical Exam:
- VS: HR 72 RR 16 BP 132/63 Sat 99% on RA 
- General:  Awake, alert, interactive, attentive, cooperative
with exam, NAD
- HEENT:  NCAT, mucous membranes moist and pink, sclera
non-icteric, OP clear
- Neck:  Supple, no thyromegaly, no lymphadenopathy, no bruits
- Lungs:  Clear bilaterally, good aeration, no wheezing/crackles
- Cardiac:  Normal S1 and S2, no murmur
- Abdomen:  S/NT/ND, normoactive BS, no masses
- Extremities:  no C/C/E, distal pulses full, warm and well
perfused, brisk capillary refill
 
Neurologic Examination:
- MS:  Orientation - oriented to person, place and date, normal
affect.  Attention - correct ___.  Language - speech is fluent
and without errors, dysarthric, intact naming, repetition; 
unable
to test reading ___ to vision.  Cognition - correct 
calculations,
right/left orientation.  No apraxias.

- Cranial Nerves: 
I:  not tested
II:  Unablet to test given poor vision, states she can see a
change in light where my face is at
III, IV, VI:  EOMI grossly intact, no ptosis
V:  Facial sensation intact to LT, symmetric jaw opening
VII:  Left facial droop
VIII:  Hearing intact to finger rub bilaterally
IX, X:  Palate elevates midline and symmetrically
XII:  Tongue protrudes midline

- Motor:  Normal bulk and tone, ___ strength on right side;
unable to move left arm & leg (however by report was moving left
arm slightly in CT scanner)

- Coordination:  No dysmetria or pastpointing with FTN on right;
unable to test on left

- Reflexes:   No clonus, toes downgoing bilatrally
         Bi   Tri   ___  Pat   Ach
        C5-6 C7-8   C5-6   L3-4  S1-2
Right 2     2     2      1      1
Left 2     2     2      1      1

- Sensation:   Intact to LT on right.  Unable to states on left.

- Gait:  Not assessed

DISCHARGE EXAMINATION:
L facial droop and L hemiparesis, flaccid with increased 
reflexes and upgoing left babinski. 
 
Pertinent Results:
___ 08:37AM BLOOD WBC-5.0 RBC-4.13* Hgb-12.2 Hct-34.8* 
MCV-84 MCH-29.5 MCHC-35.0 RDW-13.9 Plt ___
___ 08:37AM BLOOD ___ PTT-23.6 ___
___ 08:37AM BLOOD Glucose-148* UreaN-19 Creat-0.6 Na-144 
K-3.4 Cl-104 HCO3-29 AnGap-14
___ 08:37AM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD Calcium-8.3* Phos-2.9 Mg-1.8
___ 12:35PM BLOOD Cholest-170
___ 12:35PM BLOOD Triglyc-65 HDL-60 CHOL/HD-2.8 LDLcalc-97
___ 12:35PM BLOOD %HbA1c-5.2 eAG-103

___ 08:09PM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:09PM URINE Blood-SM Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-MOD
___ 08:09PM URINE ___ Bacteri-MOD Yeast-NONE 
___

IMAGING:
HEAD CT ___ CODE STROKE PROTOCOL: No acute intracranial 
process. 

HEAD CT ___: There is hypodensity in the right pons not present 
on 
previous exam which could represent an acute infarct. 

ECHO: 
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). There is mild (non-obstructive) focal hypertrophy of the 
basal septum. Right ventricular chamber size and free wall 
motion are normal. The ascending and descending thoracic aorta 
is mildly dilated. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Mild (1+) mitral regurgitation is seen. There is 
borderline pulmonary artery systolic hypertension. There is a 
very small circumferential pericardial effusion without evidence 
of hemodynamic compromise.

IMPRESSION: Mild aortic regurgitation. Mild mitral 
regurgitation. Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. No definite 
structural cardiac source of embolism identified.
Compared with the prior report (images not available for review) 
of ___, mild mitral regurgitation and a very small 
circumferential pericardial effusion are now seen.

 
Brief Hospital Course:
___ y/o RHF with HTN who presents with new left sided weakness
facial droop and dysarthria.  ___ did not show any evidence of
bleeding or infaction.  However, her examination is consistent
with a new stroke.

NEURO:
Patient was admitted as code stroke with dense L hemiparesis. 
Not given t-PA because of time of symptom onset. Initial CT, 
CTA/P in ED did not show any acute stroke or vessel pathology. 
Patient was admitted to stroke service. Blood pressure was 
allowed to autoregulate, and home BP medications were initially 
held. Patient was started on full strength ASA and simvastatin. 
Fasting lipid panel and HbA1c were within normal limits. 
Since imaging did show small vessel disease, it was presumed 
that patient had subcortical lacune due to small vessel disease. 
Given patient could likely not tolerate MRI due to back pain and 
age, repeat CT imaging was obtained after 3 days. On repeat CT, 
there was small right medial pontine infarct, which is likely 
affecting the corticospinal tract on the right, causing her 
dense L hemiparesis. 
TTE showed mild valvular disease but no etiology for stroke and 
no significant change from prior.
Her neurologic examination remained stable. She was restarted on 
___ for BP prior to discharge.

RESP:
H/o asthma. Patient continued on home inhalers and chronic 
prednisone. She had no acute respiratory issues. 

ID: Had positive UA. Although she was afebrile with normal WBC 
and no symptoms, she was started on ciprofloxicin which she has 
tolerated in the past, for a 7 day course. 

___: Pt discharged to rehab facility.

Code Status: DNR/DNI confirmed with family

 
Medications on Admission:
-albuterol 90mcg 2 puffs prn
-diltiazem 180mg daily
-fluticasone 50mcg 2puff per nose prn
-gabapentin 200mg q HS
-atrovent 17mcg 4 puffs BID
-ativan 0.5mg q HS prn insomnia
-omeprazole 40mg BID
-prednisone 2mg daily
-valsartan 160mg daily

 
Discharge Medications:
 
1. Calcium Carbonate 200 mg (500 mg) Tablet, Chewable Sig: One 
(1) Tablet, Chewable PO TID (3 times a day).  
2. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
3. Senna 8.6 mg Tablet Sig: ___ Tablets PO HS (at bedtime) as 
needed for constipation.  
4. Docusate Sodium 50 mg/5 mL Liquid Sig: One (1)  PO BID (2 
times a day): Patient may refuse. Hold if patient has loose 
stools. 
.  
5. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) puffs Inhalation PRN as needed for shortness of breath 
or wheezing.  
6. DILT-CD 180 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO once a day.  
7. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
8. Flonase 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
sprays
 Nasal once a day as needed for allergy symptoms.  
9. Gabapentin 100 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
10. Ipratropium Bromide 17 mcg/Actuation HFA Aerosol Inhaler 
Sig: Four (4) Puff Inhalation BID (2 times a day).  
11. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
12. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day: before breakfast 
and dinner.  
13. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO three times a day as needed for nausea.  
14. Prednisone 1 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
15. Valsartan 160 mg Tablet Sig: One (1) Tablet PO once a day.  
16. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

17. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  

18. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 7 days.  
19. Nystatin 100,000 unit/mL Suspension Sig: One (1) ML PO QID 
(4 times a day) as needed for oral pain.  
20. Lidocaine Viscous 2 % Solution Sig: One (1) ML Mucous 
membrane TID (3 times a day) as needed for oral pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
right pontine infarct

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Neurologic Status: L hemiparesis

 
Discharge Instructions:
 
It was a pleasure taking care of you. You were admitted with 
left sided weakness, you were found to have a small stroke in 
your brainstem. You should continue to take aspirin and 
simvastatin to help prevent strokes. You will continue to work 
with physical and occupational therapy at rehab.

You were also started on antibiotics for a urinary tract 
infection. 
 
Followup Instructions:
___